US08729271B2
N-[4-Fluoro-3-(4-methyl-1H-imidazol-1-yl)benzyl]-1-methyl-N-(propan-2-yl)-1H-imidazole-4-carboxamide dihydrochloride
A solution of N-[4-fluoro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl]-1-methyl-N-(propan-2-yl)-1H-imidazole-4-carboxamide (600 mg), 4-methylimidazole (205 mg) and di-μ-hydroxobis[(N,N,N′,N′-tetramethylethylenediamine)copper(II)]dichloride (231 mg) in chloroform (6.0 mL) was stirred under oxygen atmosphere at room temperature for 2 days. The reaction mixture was filtered through Celite, and the solvent was then distilled off under reduced pressure. The resulting residue was purified by column chromatography (NH silica gel cartridge, hexane:ethyl acetate=75:25-0:100), PTLC(NH silica gel, ethyl acetate) and PTLC (silica gel, chloroform:methanol=19:1). The resulting residue was dissolved in acetonitrile and 4N hydrochloric acid/ethyl acetate (0.08 mL) was added thereto, followed by concentration to afford the title compound (59 mg).

reactant | N-[4-fluoro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl]-1-methyl-N-(propan-2-yl)-1H-imidazole-4-carboxamide | 600 mg | FC1=C(C=C(CN(C(=O)C=2N=CN(C2)C)C(C)C)C=C1)B1OC(C(O1)(C)C)(C)C | C21H29BFN3O3
reactant | 4-methylimidazole | 205 mg | CC=1N=CNC1 | C4H6N2
reactant | chloroform | 6.0 mL | C(Cl)(Cl)Cl | CHCl3
product | N-[4-Fluoro-3-(4-methyl-1H-imidazol-1-yl)benzyl]-1-methyl-N-(propan-2-yl)-1H-imidazole-4-carboxamide dihydrochloride | 59 mg | Cl.Cl.FC1=C(C=C(CN(C(=O)C=2N=CN(C2)C)C(C)C)C=C1)N1C=NC(=C1)C | InChI=1S/C19H22FN5O.2ClH/c1-13(2)25(19(26)17-10-23(4)11-22-17)9-15-5-6-16(20)18(7-15)24-8-14(3)21-12-24;;/h5-8,10-13H,9H2,1-4H3;2*1H
